US08071595B2
To a solution of 4-hydroxy-5,5-dimethyl-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one (500 mg, 1.3 mmol) in DCM (15 mL) were added TEA (422 mg, 4.1 mmol) and triflic anhydride (785 mg, 2.7 mol) at 0° C. under an inert atmosphere. The mixture as then stirred for 2 h., diluted with water and extracted with DCM (2×50 mL). The combined organic layers were washed with water, dried over Na2SO4 and then concentrated in vacuo to afford 2,2-dimethyl-5-oxo-4-(4-(quinolin-2-ylmethoxy)phenyl)-2,5-dihydro-1H-pyrrol-3-yl trifluoromethanesulfonate (400 mg, 58%) as a white solid.

reactant | 4-hydroxy-5,5-dimethyl-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one | 1.3 mmol, 500 mg | OC1=C(C(NC1(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C22H20N2O3
reactant | triflic anhydride | 2.7 mol, 785 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2,2-dimethyl-5-oxo-4-(4-(quinolin-2-ylmethoxy)phenyl)-2,5-dihydro-1H-pyrrol-3-yl trifluoromethanesulfonate | 400 mg, 58% | FC(S(=O)(=O)OC=1C(NC(C1C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)(C)C)(F)F | C23H19F3N2O5S
